US05977178
To a solution of (2E)-5-(tert-butyloxycarbonylamino)-5-methylhex-2-enoic acid (0.5 g, 2.1 mmol) in dichloromethane (5 ml) was added trifluoroacetic acid (5 ml) and stirred for 60 min and concentrated in vacuo. Then a 10% aqueous solution of sodium carbonate (30 ml) and dioxane (30 ml) were added followed by 9H-fluorenylmethyl-succinimidyl carbonate (0.67 g, 2.1 mmol) and stirred overnight. The mixture was washed with petrol ether (2×20 ml) and the aqueous layer was acidified with 4N sulphoric acid (pH~3) and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with 1N sulfuric acid, water (4×20 ml), brine (20 ml), dried (Magnesiumsulfate) and concentrated in vacuo. The obtained product was precipitated from dichloromethane/ether and filtered to give 280 mg of (2E)-5-(((9H-flouren-9-yl)methoxy)carbonylamino)-5-methyl-hex-2-enoic acid, which was used without further purification.

reactant | (2E)-5-(tert-butyloxycarbonylamino)-5-methylhex-2-enoic acid | 2.1 mmol, 0.5 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 9H-fluorenylmethyl-succinimidyl carbonate | 2.1 mmol, 0.67 g | C(ON1C(C(CC1=O)CC1=CC=CC=2C3=CC=CC=C3CC12)=O)([O-])=O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2E)-5-(((9H-flouren-9-yl)methoxy)carbonylamino)-5-methyl-hex-2-enoic acid | 280 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C/C=C/C(=O)O)(C)C | C22H23NO4
